US06413964B1
Step B: Preparation of tert-Butyl(3-bromomethyl-4-chlorophenoxy)diphenylsilane
tert-Butyl(4-chloro-3-methylphenoxy)diphenylsilane (88.69 g, 0.233 mol), N-bromosuccinimide (49.8 g, 0.279 mol), and AIBN (3.82 g, 0.023 mol) were heated at reflux in CCl4 (500 mL) for 7 h. The reaction mixture was concentrated in vacuo, dissolved in 10% EtOAc/hexane, the succinimide filtered off, and the filtrate concentrated in vacuo to give a mixture of the mono- and di-bromides. Chromatography (SiO2)(100% hexane) gave the title compound.

reactant | tert-Butyl(4-chloro-3-methylphenoxy)diphenylsilane | 0.233 mol, 88.69 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC(=C(C=C1)Cl)C | C23H25ClOSi
reactant | N-bromosuccinimide | 0.279 mol, 49.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.023 mol, 3.82 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | hexane | CCCCCC | C6H14
solvent | CCl4 | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | tert-Butyl(3-bromomethyl-4-chlorophenoxy)diphenylsilane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC(=C(C=C1)Cl)CBr | C23H24BrClOSi
